US06645968B2
N″-cyano-N-(2-methoxy-3-pyridinyl)guanidine
A solution of 3-amino-2-methoxypyridine and sodium dicyanamide was processed as described in Example 71 A to provide the desired product.

reactant | 3-amino-2-methoxypyridine | NC=1C(=NC=CC1)OC | C6H8N2O
reactant | sodium dicyanamide | [N-](C#N)C#N.[Na+]
product | N″-cyano-N-(2-methoxy-3-pyridinyl)guanidine | C(#N)N=C(NC=1C(=NC=CC1)OC)N | C8H9N5O
